US09371320B2
B) (5-bromo-3-fluoro-2-methoxypyridin-4-yl)(cyclopentyl)methanone
To a solution of (5-bromo-3-fluoro-2-methoxypyridin-4-yl)(cyclopentyl)methanol (430 mg) in acetonitrile (10 mL) was added Dess-Martin reagent (720 mg) at room temperature, and the mixture was stirred for 3 hr, and the reaction mixture was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (basic silica gel, ethyl acetate/hexane) to give the title compound (440 mg).

reactant | (5-bromo-3-fluoro-2-methoxypyridin-4-yl)(cyclopentyl)methanol | 430 mg | BrC=1C(=C(C(=NC1)OC)F)C(O)C1CCCC1 | C12H15BrFNO2
reactant | Dess-Martin reagent | 720 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | (5-bromo-3-fluoro-2-methoxypyridin-4-yl)(cyclopentyl)methanone | 440 mg | BrC=1C(=C(C(=NC1)OC)F)C(=O)C1CCCC1 | C12H13BrFNO2
